US08536168B2
1-Benzyl-4-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-phthalazine
1-Benzyl-4-piperazin-1-yl-phthalazine (500 mg, 1.64 mmol) and 2-chloro-5-nitropyridine are combined in a 10 mL microwave vial. Triethylamine (2.96 mL, 2.14 mmol) and NMP (4.8 mL) are added. The vial is sealed and heated to 180° C. for 15 min. The crude reaction mixture is poured into water and the resulting precipitate is isolated by filtration to afford the title compound (500 mg, 70% yield).

reactant | 1-Benzyl-4-piperazin-1-yl-phthalazine | 1.64 mmol, 500 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCNCC1 | C19H20N4
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Triethylamine | 2.14 mmol, 2.96 mL | C(C)N(CC)CC | C6H15N
reactant | NMP | 4.8 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 1-Benzyl-4-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-phthalazine | 500 mg, 70% yield | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C24H22N6O2
